US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester, dihydrochloride and phenyl-acetic acid were reacted as described in Example 8, Step 6 to provide (5-{2-[(N-ethyl-N-phenylacetyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid methyl ester.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester, dihydrochloride | Cl.Cl.COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O
reactant | phenyl-acetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
product | (5-{2-[(N-ethyl-N-phenylacetyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid methyl ester | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CC1=CC=CC=C1)=O)CC)=O | C26H25F3N2O3
